* C:\Users\garre\ese_3190\Final Project.asc
M1 MIXER_CS_OUT VIN Vdd Vdd ALD1103P
R1 MIXER_CS_OUT 0 2k
R2 Vdd VIN 30k
R3 VIN 0 70k
C1 N001 0 100n
M2 N011 N011 0 0 ALD1103N
M3 N008 N011 0 0 ALD1103N
M4 N004 N006 N008 N008 ALD1103N
M5 MIX_DIFF_OUT N007 N008 N008 ALD1103N
M6 N004 N004 Vdd Vdd ALD1103P
M7 MIX_DIFF_OUT N004 Vdd Vdd ALD1103P
V1 Vdd 0 6
R5 Vdd N006 66k
R6 N006 0 33k
R7 N007 N006 1000k
C2 N010 N007 1n
R8 MIX_DIFF_OUT N010 100k
R9 N009 N010 10k
R10 OSC_OUT_2 N010 10k
C3 VIN MIX_DIFF_OUT 10µ
M8 Vdd N003 N005 N005 ALD1103N
R11 Vdd N016 10k
R12 Vdd N012 100k
R13 Vdd N013 100k
R14 Vdd OSC_OUT_2 10k
L1 N013 N012 9.83m
C4 N013 N012 1n
M12 N012 N013 N018 N018 ALD1103N
M13 N013 N012 N018 N018 ALD1103N
M14 0 N012 N016 N016 ALD1103P
M15 0 N013 OSC_OUT_2 OSC_OUT_2 ALD1103P
R15 N018 0 10k
R16 Vdd N017 10k
R17 Vdd N015 100k
R18 Vdd N014 100k
R19 Vdd N009 10k
L2 N014 N015 10m
C5 N014 N015 1n
M16 N015 N014 N019 N019 ALD1103N
M17 N014 N015 N019 N019 ALD1103N
M18 0 N015 N017 N017 ALD1103P
M19 0 N014 N009 N009 ALD1103P
R20 N019 0 10k
M9 MIXER_OUT N002 Vdd Vdd ALD1103P
R21 MIXER_OUT 0 2k
R22 Vdd N002 30k
R23 N002 0 70k
C7 N003 MIXER_OUT 10µ
C8 N002 N001 10µ
R24 Vdd N003 25k
R25 N003 0 75k
R§SPEAKER N005 0 8
R4 N001 MIXER_CS_OUT 100
C6 N013 N012 73p
C9 N015 N014 13p
R26 Vdd N011 100k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\garre\AppData\Local\LTspice\lib\cmp\standard.mos
.inc ALD1103N.txt
.inc ALD1103P.txt
* Find what resistor gives this current
* Tune Voltage Here
* Tune Voltage Here
* Tune Voltage Here
* Tune Capacitance
* Tune Capacitance and Inductance
* Tune Capacitance and Inductance
* Garrett Kirsch
* Joaquin Revello
* Tune Voltage Here
* Tune Capacitance
.tran 0 15ms 10ms 1us
* Freq = 49kHz
* Freq = 50kHz
* .op
.backanno
.end
