* C:\Users\garre\ese_3190\hw\hw7 differential amp.asc
V1 Vdd 0 6V
M5 Vdd Vy VOUT Vdd MyPMOS l=0.5u w=1.7u
M4 Vdd Vy Vy Vdd MyPMOS l=0.5u w=1.7u
M1 Vy N001 Vx 0 MyNMOS l=0.5u w=20u
M2 VOUT VOUT Vx 0 MyNMOS l=0.5u w=20u
M3 Vx N003 0 0 MyNMOS l=0.5u w=1.53u
VB N003 0 1V
C1 VOUT 0 5p
V_CM N002 0 3
Vin N001 N002 PULSE(0 1 1u 1ns 1ns 1u 2u)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\garre\AppData\Local\LTspice\lib\cmp\standard.mos
.inc MyPMOS.txt
.inc MyNMOS.txt
* .dc V_CM 1.5 5.5 0.1
* .op
.tran 0 3us 0 50ns
* .ac dec 1000 1 1000000
.backanno
.end
