* C:\Users\garre\ese_3190\lab3 - PMOS\LTSpice\Exp2.asc
Vs N001 0 6V
Vg N002 0 4
Vd N003 0 3V
M1 N003 N002 N001 N001 ALD1103P
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\garre\AppData\Local\LTspice\lib\cmp\standard.mos
.inc ALD1103P.txt
.dc Vd 0V 6V 0.1V
.backanno
.end
