* C:\Users\garre\ese_3190\lab3 - PMOS\Prelab.asc
M1 0 0 N001 N001 ALD1103P
V1 N001 0 4
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\garre\AppData\Local\LTspice\lib\cmp\standard.mos
.inc ALD1103P.txt
* .op
.dc V1 0 6 0.5
.backanno
.end
